US20010016659A1
A solution of 4-aminophenol (9.60 g, 88.0 mmol) in anh. DMF (150 mL) was treated with potassium tert-butoxide (10.29 g, 91.7 mmol), and the reddish-brown mixture was stirred at room temp. for 2 h. The contents were treated with 4-chloro-.N-methyl-2-pyridinecarboxamide (15.0 g, 87.9 mmol) and K2CO3 (6.50 g, 47.0 mmol) and then heated at 80° C. for 8 h. The mixture was cooled to room temp. and separated between EtOAc (500 mL) and a saturated NaCl solution (500 mL). The aqueous phase was back-e,xtracted with EtOAc (300 mL). The combined organic layers were washed with a saturated NaCl solution (4×1000 mL), dried (Na2SO4) and concentrated under reduced pressure. The resulting solids were dried under reduced pressure at 35° C. for 3 h to afford 4-(2-(N-methylcarbamoyl)-4-pyridyloxy)aniline as a light-brown solid 17.9 g, 84%): 1H-NMR (DMSO-d6) δ2.77 (d, J=4.8 Hz, 3H), 5.17 (br s, 2H), 6.64, 6.86 (AA′BB′ quartet, J=8.4 Hz, 4H), 7.06 (dd, JT5.5, 2.5 Hz, 1H), 7.33 (d, J=2.5 Hz, 1H), 8.44 (d, J=5.5 Hz, 1H), 8.73 (br d, 1H); HPLC ES-MS m/z 244 ((M+H)+).

reactant | 4-aminophenol | 88.0 mmol, 9.60 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | potassium tert-butoxide | 91.7 mmol, 10.29 g | CC(C)([O-])C.[K+]
reactant | N-methyl-2-pyridinecarboxamide | 87.9 mmol, 15.0 g | CNC(=O)C1=NC=CC=C1 | C7H8N2O
reactant | K2CO3 | 47.0 mmol, 6.50 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 4-(2-(N-methylcarbamoyl)-4-pyridyloxy)aniline | 17.9 g, 84% | CNC(=O)C1=NC=CC(=C1)OC1=CC=C(N)C=C1 | C13H13N3O2
